US08044076B2
4-Allyloxy-3-ethyl-N-hydroxy-5-methyl-benzamidine
The title compound is prepared by allylating 3-ethyl-4-hydroxy-5-methyl-benzaldehyde which is prepared from 2-ethyl-6-methyl-phenol following literature procedures (see 3-ethyl-4,N-dihydroxy-5-methyl-benzamidine). The aldehyde is then transformed into the corresponding hydroxyamidine according to literature procedures (see 3-ethyl-4,N-dihydroxy-5-methyl-benzamidine); LC-MS: tR=0.72 min, [M+1]+=235.09, 1H NMR (CD3OD): δ 7.31 (s, 1H), 7.29 (s, 1H), 6.10 (m, 1H), 5.43 (dd, J=17.0, 1.5 Hz, 1H), 5.27 (dd, J=10.3, 1.2 Hz, 1H), 4.81 (s br, 3H), 4.31 (d, J=5.6 Hz, 2H), 2.67 (q, J=7.6 Hz, 2H), 2.30 (s, 3H), 1.23 (t, J=7.6 Hz, 4H).

reactant | 3-ethyl-4-hydroxy-5-methyl-benzaldehyde | C(C)C=1C=C(C=O)C=C(C1O)C | C10H12O2
reactant | 2-ethyl-6-methyl-phenol | C(C)C1=C(C(=CC=C1)C)O | C9H12O
reactant | 3-ethyl-4,N-dihydroxy-5-methyl-benzamidine | C(C)C=1C=C(C(=N)NO)C=C(C1O)C | C10H14N2O2
product | 4-Allyloxy-3-ethyl-N-hydroxy-5-methyl-benzamidine | C(C=C)OC1=C(C=C(C(=N)NO)C=C1C)CC | C13H18N2O2
